US07045539B2
4-Cyano-6-hydroxy-2-(2-ethyl-3-hydroxy-phenyl)-benzothiazole
4-Cyano-6-methoxy-2-(2-ethyl-3-methoxy-phenyl)-benzothiazole (0.1 g, 0.31 mmol) was treated with boron tribromide under standard condition to give the title compound (30 mg, 33% yield) as a yellow solid. Mass spec:MH+=297.

reactant | 4-Cyano-6-methoxy-2-(2-ethyl-3-methoxy-phenyl)-benzothiazole | 0.31 mmol, 0.1 g | C(#N)C1=CC(=CC2=C1N=C(S2)C2=C(C(=CC=C2)OC)CC)OC | C18H16N2O2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 4-Cyano-6-hydroxy-2-(2-ethyl-3-hydroxy-phenyl)-benzothiazole | 30 mg, 33% yield | C(#N)C1=CC(=CC2=C1N=C(S2)C2=C(C(=CC=C2)O)CC)O | C16H12N2O2S
